US04282365
Step A: Methyl 6,11-Dihydro-11-phenylthiodibenz[b,e]oxepin-2-carboxylate
Add 0.12 ml of benzenethiol to a 70° C. suspension of 0.5 gm of potassium carbonate in 5 ml of dimethylformamide. Stir under a nitrogen atmosphere for 10 minutes. Add 0.27 gm of methyl 6,11-dihydro-11-chlorodibenz[b,e]oxepin-2-carboxylic acid and stir for 15 minutes. Dilute with water and extract with ether. Wash the extract with 5% aqueous potassium hydroxide and with saturated aqueous sodium chloride solution. Dry over anhydrous sodium sulfate and concentrate to dryness to obtain the title product (Yield 0.226 gm).

reactant | benzenethiol | 0.12 ml | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 0.5 gm | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 6,11-dihydro-11-chlorodibenz[b,e]oxepin-2-carboxylic acid | 0.27 gm | CC1=C(C=CC=2OCC3=C(C(C21)Cl)C=CC=C3)C(=O)O | C16H13ClO3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 6,11-Dihydro-11-phenylthiodibenz[b,e]oxepin-2-carboxylate | Yield 0.226 gm | C1(=CC=CC=C1)SC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C22H18O3S
